US08309721B2
0.2 g of (1H-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate (BOP), 62 mg of hydroxybenzotriazole (HOBT), 33 mg of ammonium chloride and 0.25 ml of diisopropylethylamine are successively added to a solution of 0.15 g of 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-(tetrahydro-2H-pyran-4-ylamino)benzoic acid in 20 ml of N,N-dimethylformamide. The reaction mixture is stirred at ambient temperature for 12 hours and then diluted with distilled water and extracted with ethyl acetate. The organic phase is subsequently washed with distilled water and a saturated solution of sodium chloride, dried over magnesium sulphate, filtered and concentrated under reduced pressure. The residue is purified by silica gel chromatography, elution being carried out with a mixture of cyclohexane and ethyl acetate (70/30 by volume), so as to give 100 mg of 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-(tetrahydro-2H-pyran-4-ylamino)benzamide in the form of a white solid, the characteristics of which are the following:

reactant | (1H-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate | 0.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | hydroxybenzotriazole | 62 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | ammonium chloride | 33 mg | [Cl-].[NH4+]
reactant | diisopropylethylamine | 0.25 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-(tetrahydro-2H-pyran-4-ylamino)benzoic acid | 0.15 g | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)O)C=C1)NC1CCOCC1 | C30H24N4O3
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-(tetrahydro-2H-pyran-4-ylamino)benzamide | 100 mg | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)N)C=C1)NC1CCOCC1 | C30H25N5O2
